US06894061B2
4-[(2-Bromo-6-methylphenanthridin-5(6H)-yl)sulfonyl]-2-fluorophenol
The title compound was prepared from 2-bromo-5-[(3-fluoro-4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine (0.5 g, 1.08 mmol), cyclohexene, (0.27 mL, 3.58 mmol), and 1.0 M boron tribromide in dichloromethane (6.49 mL, 6.49 mmol) according to the procedure and in the same manner as described in Example 4, step b. The crude product was purified by re-crystallization from dichloromethane to yield 4-[(2-bromo-6-methylphenanthridin-5(6H)-yl)sulfonyl]-2-fluorophenol (0.15 g, 0.34 mmol, 31%) as an off-white solid, m.p. 203-206° C.;

reactant | 2-bromo-5-[(3-fluoro-4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 1.08 mmol, 0.5 g | BrC1=CC=2C3=CC=CC=C3C(N(C2C=C1)S(=O)(=O)C1=CC(=C(C=C1)OC)F)C | C21H17BrFNO3S
reactant | cyclohexene | 3.58 mmol, 0.27 mL | C1=CCCCC1 | C6H10
reactant | boron tribromide | 1.0 M | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 6.49 mmol, 6.49 mL | ClCCl | CH2Cl2
product | 4-[(2-bromo-6-methylphenanthridin-5(6H)-yl)sulfonyl]-2-fluorophenol | 0.34 mmol, 0.15 g, 31% | BrC1=CC=2C3=CC=CC=C3C(N(C2C=C1)S(=O)(=O)C1=CC(=C(C=C1)O)F)C | C20H15BrFNO3S
